US08445687B2
A mixture of 4-(2-(methylcarbamoyl)pyridin-4-yloxy)phenylcarbamate (25 g, 0.06871 mol) and 3-trifluoromethyl-4-chloroaniline (13.4 g, 0.06871 mol) in acetonitrile (250 ml) was refluxed for 24 hours when product precipitated out of reaction mass. The reaction mass was cooled to room temperature and obtained product was filtered, washed with acetonitrile till a clear filtrate was obtained. It was then vacuum dried to obtain 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl)ureido)phenoxy)-N-methylpicolinamide (sorafenib base) (28 g).

reactant | 4-(2-(methylcarbamoyl)pyridin-4-yloxy)phenylcarbamate | 0.06871 mol, 25 g | CNC(=O)C1=NC=CC(=C1)OC1=CC=C(C=C1)NC([O-])=O
reactant | 3-trifluoromethyl-4-chloroaniline | 0.06871 mol, 13.4 g | FC(C=1C=C(N)C=CC1Cl)(F)F | C7H5ClF3N
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | 4-(4-(3-(4-chloro-3-(trifluoromethyl)phenyl)ureido)phenoxy)-N-methylpicolinamide | 28 g | ClC1=C(C=C(C=C1)NC(NC1=CC=C(OC2=CC(=NC=C2)C(=O)NC)C=C1)=O)C(F)(F)F | C21H16ClF3N4O3
